US07696374B2
4-Fluorophenyl 1,1′-biphenyl-4-ylmethylcarbamate
0.069 ml (0.522 mmol) of 4-fluorophenyl chloroformate and 0.149 ml (0.82 mmol) of N,N-diisopropylethylamine are added, dropwise and at ambient temperature, to a solution of 0.107 g (0.58 mmol) of 4-phenylbenzylamine in 4 ml of methylene chloride. The mixture is stirred at ambient temperature for 1 h. The reaction medium is diluted with a further 2 ml of methylene chloride and washed with a saturated aqueous ammonium chloride solution and with a saturated aqueous sodium chloride solution. The phases are separated and the organic phase is filtered through a hydrophobic sintered glass funnel. The filtrate is concentrated under reduced pressure and the solid residue is washed with 5 ml of diisopropyl ether.

reactant | 4-fluorophenyl chloroformate | 0.522 mmol, 0.069 ml | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | N,N-diisopropylethylamine | 0.82 mmol, 0.149 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-phenylbenzylamine | 0.58 mmol, 0.107 g | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-Fluorophenyl 1,1′-biphenyl-4-ylmethylcarbamate | C1(=CC=C(C=C1)CNC(OC1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C20H16FNO2
